US04028344
A. 2-t-Butylazo-2-chloropropane
To a stirred solution of 64 grams (0.5 moles) of acetone t-butylhydrazone and 51 grams (0.504 moles) of triethylamine in 400 ml of pentane in a 1 liter 4 neck flask equipped with a mechanical stirrer, thermometer and gas inlet tube, was added 35.5 grams (0.5 moles) of chlorine gas, holding the temperature at -5° to 0° C. After the chlorine addition was complete, the reaction mixture was stirred an additional 15 minutes and the insoluble triethylamine hydrochloride filtered off. The filter cake was washed with an additional 150 ml pentane and the filtrate used in the subsequent reaction.

reactant | acetone t-butylhydrazone | 0.5 moles, 64 grams | C(C)(C)(C)NN=C(C)C | C7H16N2
reactant | triethylamine | 0.504 moles, 51 grams | C(C)N(CC)CC | C6H15N
reactant | chlorine | 0.5 moles, 35.5 grams | ClCl | Cl2
solvent | pentane | 400 ml | CCCCC | C5H12
product | 2-t-Butylazo-2-chloropropane | C(C)(C)(C)N=NC(C)(C)Cl | C7H15ClN2
